US07074784B2
Methyl 4-(4-morpholinyl)-3-oxobutanoate
1.27 g (14.6 mmol) of morpholine are added to a solution of 1.0 g (6.64 mmol) of methyl 4-chloroacetoacetate in 10 ml of dichloromethane, and the mixture is stirred at room temperature for 4 hours. Water is then added and the mixture is neutralized with 2N hydrochloric acid. The organic phase is dried over sodium sulfate and concentrated, and the residue is chromatographed on silica gel with cyclohexane/ethyl acetate (10:1→4:1→1:1) as mobile phase.

reactant | morpholine | 14.6 mmol, 1.27 g | N1CCOCC1 | C4H9NO
reactant | methyl 4-chloroacetoacetate | 6.64 mmol, 1.0 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | Water | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 4-(4-morpholinyl)-3-oxobutanoate | N1(CCOCC1)CC(CC(=O)OC)=O | C9H15NO4
